US08802684B2
6-Amino-2-(butyloxy)-9-[2-(2-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one
The crude aqueous solution containing approx 45 mg 2-(butyloxy)-8-(methyloxy)-9-[2-(2-piperidinyl)ethyl]-9H-purin-6-amine (45 mg, 0.129 mmol) was treated with a solution of HCl in 1,4-dioxane (0.807 mL, 3.23 mmol, 4 molar solution). This was stirred at ambient temperature in a capped vial overnight to give a pale solution. A further 1 ml of 4 molar HCl solution in 1,4-dioxane was added and stirring continued over the weekend. The yellow reaction solution was evaporated to dryness under N2 in a blow down unit. The residue was purified by MDAP (Method A), appropriate fractions were evaporated under N2 in a blow down unit to give the title compound as a white solid (23.3 mg).

reactant | 2-(butyloxy)-8-(methyloxy)-9-[2-(2-piperidinyl)ethyl]-9H-purin-6-amine | 0.129 mmol, approx 45 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1NCCCC1)OC)N | C17H28N6O2
reactant | HCl | Cl | ClH
reactant | HCl | 4 molar, 1 ml | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3.23 mmol, 4 molar, 0.807 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butyloxy)-9-[2-(2-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one | 23.3 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCC1NCCCC1)=O | C16H26N6O2
